US07888354B2
(1) Preparation of 1-(4-chlorobutoxy)-4-iodobenzene
To a solution of 4-iodophenol (1.0 g) in acetonitrile (10 mL), cesium carbonate (3.0 g) and 1-chloro-4-iodobutane (1.2 g) were added and the mixture was heated to 100° C., at which it was stirred for 4 hours. The reaction mixture was cooled to room temperature and filtered to remove insoluble materials, and the filtrate was concentrated under reduced pressure. The resulting residue was purified by NH-type silica gel column chromatography (eluting solvent: n-hexane:ethyl acetate=7:3 to 1:1) to give the titled compound (1.4 g, 99%) as a brown oil.

reactant | 4-iodophenol | 1.0 g | IC1=CC=C(C=C1)O | C6H5IO
reactant | cesium carbonate | 3.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-chloro-4-iodobutane | 1.2 g | ClCCCCI | C4H8ClI
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 1-(4-chlorobutoxy)-4-iodobenzene | 1.4 g, 99% | ClCCCCOC1=CC=C(C=C1)I | C10H12ClIO
